US07122558B2
Preparation of 2-Cyclopentyl-2-hydroxy-2-thien-2-ylacetic acid. (3R)-1-azabicyclo[2.2.2]oct-3-yl ester
Prepared using the same method as for Intermediate I-14, but from from 20.8 g (0.0784 mol) of of 2-oxo-2-thien-2-ylacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester and cyclopentylmagnesium cloride, 0.08 mol (40 ml of a solution 2M in ether). The oil obtained (15.64 g) was purified by chromatography on silica gel eluting with chloroform/methanol/ammonia 97:3:0.5 to obtain 8.38 g (32%) of a pure product, mixture of diastereomers: I-15a and I-15b. Structure confirmed by 1H-NMR.

reactant | 2-oxo-2-thien-2-ylacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester | N12C[C@@H](C(CC1)CC2)OC(C(C=2SC=CC2)=O)=O | C13H15NO3S
reactant | cyclopentylmagnesium cloride | C1(CCCC1)[Mg]Cl
solvent | ether | CCOCC | C4H10O
product | 2-Cyclopentyl-2-hydroxy-2-thien-2-ylacetic acid. (3R)-1-azabicyclo[2.2.2]oct-3-yl ester | C1(CCCC1)C(C(=O)O[C@H]1CN2CCC1CC2)(C=2SC=CC2)O | C18H25NO3S
